US05025007
Step C: Preparation of 3-bromo-7-hydroxymethyl-9-fluorenone
3-bromo-7-acetoxymethyl-9-fluorenone (1.18 g) was suspended in methanol (102 ml) and THF (23 ml). To this suspension was added 0.045M NaOMe (6.6 ml). The reaction mixture was stirred at room temperature for 1.25 hours. It was then neutralized with 0.2M pH 7 phosphate buffer. The tetrahydrofuran and methanol were removed under reduced pressure. Reaction mixture was then diluted with ethyl acetate, washed with water and brine, dried and evaporated gave the product (1.0 g).

reactant | 3-bromo-7-acetoxymethyl-9-fluorenone | 1.18 g | BrC=1C=CC=2C(C3=CC(=CC=C3C2C1)COC(C)=O)=O | C16H11BrO3
reactant | NaOMe | 0.045M, 6.6 ml | C[O-].[Na+]
reactant | phosphate | 0.2M, pH 7 | P(=O)([O-])([O-])[O-]
solvent | methanol | 102 ml | CO | CH4O
solvent | THF | 23 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-bromo-7-hydroxymethyl-9-fluorenone | 1.0 g | BrC=1C=CC=2C(C3=CC(=CC=C3C2C1)CO)=O | C14H9BrO2
